US07989457B2
A solution of (±)-3-{4-[2-cyclohexyl-1-(4′-trifluoromethyl-biphenyl-4-yl)-ethoxy]-benzoylamino}-propionic acid tert-butyl ester (0.0910 g, 0.153 mmol) in dimethylformamide (1.0 mL) at 0° C. was treated with NaH (1 small spatula tip). After 25 min., MeI (0.0240 mL, 0.385 mmol) is added and the reaction is stirred for 1 h. The reaction mixture is quenched with saturated NH4Cl (aq) (2 μL) and extracted with EtOAc (3×10 mL). Combined extracts are washed with brine (1×), dried over MgSO4, filtered, and conc. The residue is loaded onto silica gel and eluted with hexanes using a gradient of 10% EtOAc to 60% EtOAc giving (±)-3-({4-[2-cyclohexyl-1-(4′-trifluoromethyl-biphenyl-4-yl)-ethoxy]-benzoyl}-methyl-amino)-propionic acid tert-butyl ester (7.4 mg, 8%) as a clear syrup. MS (ES): 554.0 [M+H-(t-Bu)]+.

reactant | (±)-3-{4-[2-cyclohexyl-1-(4′-trifluoromethyl-biphenyl-4-yl)-ethoxy]-benzoylamino}-propionic acid tert-butyl ester | 0.153 mmol, 0.0910 g | C(C)(C)(C)OC(CCNC(C1=CC=C(C=C1)OC(CC1CCCCC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | C35H40F3NO4
reactant | NaH | [H-].[Na+]
reactant | MeI | 0.385 mmol, 0.0240 mL | CI | CH3I
solvent | dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
product | (±)-3-({4-[2-cyclohexyl-1-(4′-trifluoromethyl-biphenyl-4-yl)-ethoxy]-benzoyl}-methyl-amino)-propionic acid tert-butyl ester | 7.4 mg, 8% | C(C)(C)(C)OC(CCN(C)C(C1=CC=C(C=C1)OC(CC1CCCCC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | C36H42F3NO4
